US05135962
DETDA:
A commercial preparation of diethyl toluene diamine (DETDA) which is an isomeric mixture of 1-methyl-3,5-diethyl-2,4-diaminobenzene and 1-methyl-3,5-diethyl-2,6-diaminobenzene in a ratio between 65:35 and 80:20.

reactant | diethyl toluene diamine | C(C)C=1C(=C(C(=C(C1)C)N)N)CC | C11H18N2
reactant | 1-methyl-3,5-diethyl-2,4-diaminobenzene | CC1=C(C(=C(C(=C1)CC)N)CC)N | C11H18N2
reactant | 1-methyl-3,5-diethyl-2,6-diaminobenzene | CC1=C(C(=CC(=C1N)CC)CC)N | C11H18N2
product | DETDA | CCC1=CC(=C(C(=C1N)C)N)CC.CCC1=C(C(=C(C(=C1)C)N)CC)N | 2C11H18N2
